US07759518B2
Step B: 2,3-Difluoro-N-(2-fluoro-4-iodophenyl)-5-(2-methoxyethoxy)-6-nitroaniline
2-Fluoro-4-iodoaniline (1.6 g, 6.8 mmol) and 1,2,3-trifluoro-5-(2-methoxyethoxy)-4-nitrobenzene (1.7 g, 6.8 mmol) were reacted using the condition described in Example 1 (Step A) to form the title compound (1.02 g, 32%); m/z=467 [M−1].

reactant | 2-Fluoro-4-iodoaniline | 6.8 mmol, 1.6 g | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | 1,2,3-trifluoro-5-(2-methoxyethoxy)-4-nitrobenzene | 6.8 mmol, 1.7 g | FC1=C(C(=C(C(=C1)OCCOC)[N+](=O)[O-])F)F | C9H8F3NO4
product | 2,3-Difluoro-N-(2-fluoro-4-iodophenyl)-5-(2-methoxyethoxy)-6-nitroaniline | 1.02 g, 32% | FC1=C(NC2=C(C=C(C=C2)I)F)C(=C(C=C1F)OCCOC)[N+](=O)[O-] | C15H12F3IN2O4
